US07956064B2
4-chlorothieno[3,2-c]quinoline-7-carboxylate (10 mg, 0.036 mmol) was suspended in NMP (0.1 ml) and 3-aminomethylpyridine (0.1 ml). The mixture was heated in a microwave oven at 120° C. for 10 nm. The reaction mixture was dissolved in a mixture of NMP and MeOH and the ester intermediate purified by preparative HPLC. After genevac evaporation of the solvents, the resulting solid was dissolved in a 1:1 mixture of THF and MeOH (0.6 ml). 5N aqueous LiOH (0.2 ml) was added and the mixture stirred at room temperature for 17 hrs. Water and aqueous HCl were added and the solution of 4-(pyridin-3-ylmethylamino)thieno[3,2-c]quinoline-7-carboxylic acid was purified by preparative HPLC. Removal of the solvents by genevac evaporation provided compound 4-(pyridin-3-ylmethylamino)thieno[3,2-c]quinoline-7-carboxylic acid as a white solid (10 mg, 62% yield). LCMS (ES): 95% pure, m/z 336 [M+1]+. 1H NMR (CDCl3, 400 MHz) δ 5.23 (s, 2H), 7.71-7.78 (m, 4H), 8.11 (d, J=5.6, 1H), 8.47 (d, J=8.0, 1H), 8.49 (d, J=0.8, 1H), 8.62 (d, J=5.2, 1H), 8.97 (s, 1H) ppm.

reactant | 4-chlorothieno[3,2-c]quinoline-7-carboxylate | 0.036 mmol, 10 mg | ClC1=NC=2C=C(C=CC2C2=C1C=CS2)C(=O)[O-]
reactant | 3-aminomethylpyridine | 0.1 ml | NCC=1C=NC=CC1 | C6H8N2
solvent | NMP | 0.1 ml | CN1CCCC1=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 4-(pyridin-3-ylmethylamino)thieno[3,2-c]quinoline-7-carboxylic acid | 10 mg, 62% yield | N1=CC(=CC=C1)CNC1=NC=2C=C(C=CC2C2=C1C=CS2)C(=O)O | C18H13N3O2S
